### PR TITLE
[Merged by Bors] - feat: Cartan matrices are non-singular

### PR DESCRIPTION
**Pull request by ocfnash**
We also change the definition of docs#Matrix.Nondegenerate to demand `[Finite m]` rather than `[Fintype m]`.

This is a useful change in its own right and is visible here in that we would otherwise need to supply the assumption `[Fintype b.support]` to `cartanMatrix_nondegenerate`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 1]
```diff
@@ -20,16 +20,23 @@ import Mathlib.LinearAlgebra.Matrix.Adjugate
...
 
 /-- A matrix `M` is nondegenerate if for all `v ≠ 0`, there is a `w ≠ 0` with `w * M * v ≠ 0`. -/
-def Nondegenerate (M : Matrix m m R) :=
+def Nondegenerate [Finite m] (M : Matrix m m R) :=
+  let _i : Fintype m := Fintype.ofFinite m
   ∀ v, (∀ w, dotProduct v (M *ᵥ w) = 0) → v = 0
 
+variable [Fintype m]
+
+lemma Nondegenerate_def {M : Matrix m m R} :
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean:32]: should this be named `nondegenerate_def` instead?

**Review by grunweg — COMMENTED** [review]
The changes to Nondegenerate look good to me (with one question about naming). I cannot review the other half of this PR well.

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 2]
```diff
@@ -20,16 +20,23 @@ import Mathlib.LinearAlgebra.Matrix.Adjugate
 
 namespace Matrix
 
-variable {m R A : Type*} [Fintype m] [CommRing R]
+variable {m R A : Type*} [CommRing R]
 
 /-- A matrix `M` is nondegenerate if for all `v ≠ 0`, there is a `w ≠ 0` with `w * M * v ≠ 0`. -/
-def Nondegenerate (M : Matrix m m R) :=
+def Nondegenerate [Finite m] (M : Matrix m m R) :=
+  let _i : Fintype m := Fintype.ofFinite m
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean:27]:
```suggestion
  letI : Fintype m := Fintype.ofFinite m
```
inlining it should give a cleaner term. For defs, this can be relevant.

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean [hunk 3]
```diff
@@ -172,10 +172,33 @@ theorem nondegenerate_iff_det_ne_zero {A : Type*} [DecidableEq n] [CommRing A] [
...
+  exact mul_ne_zero_iff_right h
+
+theorem Nondegenerate.mul_iff_left {A : Type*} [CommRing A] [IsDomain A]
+    {M N : Matrix n n A} (h : M.Nondegenerate) :
+    (M * N).Nondegenerate ↔ N.Nondegenerate := by
+  classical
+  simp only [nondegenerate_iff_det_ne_zero, det_mul] at h ⊢
+  exact mul_ne_zero_iff_left h
+
+theorem Nondegenerate.smul_iff {A : Type*} [CommRing A] [IsDomain A]
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean:194]:
```suggestion
omit [Fintype n] in
theorem Nondegenerate.smul_iff [Finite n] {A : Type*} [CommRing A] [IsDomain A]
```
should be ok?

**Review by sgouezel — COMMENTED** [review]
bors d+

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean:27]: Done. Though I claim that this definition should never be unfolded since we provide `nondegenerate_def` (which is of course the one place it is unfolded).

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean:194]: Good idea, done!
